US06780996B2
Following the procedure used to prepare Reference Example 14, reaction of 4-chloro-6-hydroxy-7-(2-methoxyethoxy)- 3-quinolinecarbonitrile with triphenyl phosphine, diethyl azodicarboxylate and n-butanol provides 6-butoxy-4-chloro-7-(2-methoxyethoxy)-3-quinolinecarbonitrile in 71% yield, mp 128-130° C.

reactant | 4-chloro-6-hydroxy-7-(2-methoxyethoxy)- 3-quinolinecarbonitrile | ClC1=C(C=NC2=CC(=C(C=C12)O)OCCOC)C#N | C13H11ClN2O3
reactant | triphenyl phosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-butoxy-4-chloro-7-(2-methoxyethoxy)-3-quinolinecarbonitrile | 71% yield | C(CCC)OC=1C=C2C(=C(C=NC2=CC1OCCOC)C#N)Cl | C17H19ClN2O3
